US08809539B2
An aqueous solution (10 mL) of sodium hydroxide (0.78 g, 0.0195 mol) is added to an ethanolic solution (30 mL) of 2,2-dimethyl-2,3-dihydrobenzofuran-5-carboxylic acid ethyl ester (3.9 g, 0.018 mol). The reaction mixture is heated at 75° C. for four and an half hours. Ethanol is removed under reduced pressure. Demineralized water is added to the residue and pH is brought to ˜3 with 1 N HCl. Solid thus obtained is filtered, washed with demineralized water and dried under reduced pressure to give 2,2-dimethyl-2,3-dihydrobenzofuran-5-carboxylic acid.

reactant | sodium hydroxide | 0.0195 mol, 10 mL, 0.78 g | [OH-].[Na+]
reactant | 2,2-dimethyl-2,3-dihydrobenzofuran-5-carboxylic acid ethyl ester | 0.018 mol, 30 mL, 3.9 g | C(C)OC(=O)C=1C=CC2=C(CC(O2)(C)C)C1 | C13H16O3
product | 2,2-dimethyl-2,3-dihydrobenzofuran-5-carboxylic acid | CC1(OC2=C(C1)C=C(C=C2)C(=O)O)C | C11H12O3
